US05122523
70 mg of (4S,5RS)-3-benzyloxycarbonyl-4-cyclohexylmethyl-2,2-dimethyl-5-[(1RS)-1-hydroxy-2-(4-methylpiperidino)ethyl]oxazolidine was dissolved in 1.5 ml of ethanol, and palladium black was added thereto. The mixture was treated in the same manner as in Example 17 to obtain 45 mg of (2RS,3RS,4S)-4-amino-5-cyclohexyl-1-(4-methylpiperidino)-2,3-pentanediol as colorless oily substance.

reactant | (4S,5RS)-3-benzyloxycarbonyl-4-cyclohexylmethyl-2,2-dimethyl-5-[(1RS)-1-hydroxy-2-(4-methylpiperidino)ethyl]oxazolidine | 70 mg | C(C1=CC=CC=C1)OC(=O)N1C(OC([C@@H]1CC1CCCCC1)C(CN1CCC(CC1)C)O)(C)C | C28H44N2O4
solvent | ethanol | 1.5 ml | C(C)O | C2H6O
catalyst | palladium black | [Pd] | Pd
product | (2RS,3RS,4S)-4-amino-5-cyclohexyl-1-(4-methylpiperidino)-2,3-pentanediol | 45 mg | N[C@H](C(C(CN1CCC(CC1)C)O)O)CC1CCCCC1 | C17H34N2O2
